* /home/ash98/esim-workspace/74ls283-test/74ls283-test.cir

.include 74LS283.sub
x1 s2 net-_x1-pad2_ net-_x1-pad3_ s1 net-_x1-pad5_ net-_x1-pad6_ net-_x1-pad7_ gnd c4 s4 net-_x1-pad11_ net-_x1-pad12_ s3 net-_x1-pad14_ net-_x1-pad15_ net-_x1-pad16_ 74LS283
v5  net-_x1-pad6_ gnd 5
v4  net-_x1-pad3_ gnd 5
v8  net-_x1-pad12_ gnd 5
v7  net-_x1-pad14_ gnd 5
v2  net-_x1-pad5_ gnd 0
v1  net-_x1-pad2_ gnd 0
v10  net-_x1-pad11_ gnd 0
v9  net-_x1-pad15_ gnd 5
v6 net-_x1-pad16_ gnd  dc 5
r1  s2 gnd 1k
r2  s1 gnd 1k
r4  s4 gnd 1k
r5  s3 gnd 1k
r3  c4 gnd 1k
v3  net-_x1-pad7_ gnd 0
* u1  s2 plot_v1
* u2  s1 plot_v1
* u4  s3 plot_v1
* u5  s4 plot_v1
* u3  c4 plot_v1
.tran 1e-09 100e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(s2)
plot v(s1)
plot v(s3)
plot v(s4)
plot v(c4)
.endc
.end
